US07618989B2
2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)naphtho[1,2-d][1,3]thiazole-7carbonitrile
2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile (0.65 g, 2.0 mmol), prepared in step 5 of Example 6, N-bromosuccinamide (0.39 g, 2.2 mmol) and a catalytic amount of 2,2′-azobis(2-methylproprionitrile) were stirred in carbontetrachloride (68 mL) at reflux for 4 h. The reaction was diluted with ethyl acetate and washed with 10% sodium thiosulfate. The layers were separated and the organic layer was dried over anhydrous MgSO4, filtered and concentrated to give 0.64 g of crude product. Purification of the crude product on silica gel using a stepwise gradient of 6:1 to 1:1 hexane:ethyl acetate as the eluent gave 0.35 g of product that contained an impurity. Recrystallization from ethyl acetate afforded the title compound (0.02 g, 3%), mp>230° C.

reactant | 2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile | 2.0 mmol, 0.65 g | CC1(N(C(OC1)=O)C=1SC2=C(N1)C1=CC=C(C=C1CC2)C#N)C | C17H15N3O2S
reactant | N-bromosuccinamide | 2.2 mmol, 0.39 g | BrNC(CCC(=O)N)=O | C4H7BrN2O2
reactant | 2,2′-azobis(2-methylproprionitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbontetrachloride | 68 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4,4-Dimethyl-2-oxo-1,3-oxazolidin-3-yl)naphtho[1,2-d][1,3]thiazole-7carbonitrile | 0.35 g | CC1(N(C(OC1)=O)C=1SC2=C(N1)C1=CC=C(C=C1C=C2)C#N)C | C17H13N3O2S
